US04209523
4-Amino-benzamido-acetohydroxamic acid hydrochloride
5.75 g (0.25 gram atom) of sodium are added in small pieces to 150 ml of anhydrous methanol, and this cold solution of sodium methylene is then poured into a solution of 10.5 g (0.15 mol) of hydroxylamine hydrochloride in 100 ml of anhydrous methanol. The mixture is stirred for half an hour in the cold, the sodium chloride precipitate is filtered off and 22.2 g (0.1 mol) of ethyl 4-aminobenzamidoacetate are added to the filtrate; after leaving the reactants in contact overnight, the mixture is evaporated to dryness in vacuo, the residue is taken up in 100 ml of water and the hydrochloride is precipitated by adding 6 N HCl up to pH=1, and is filtered off and washed with 10 ml of cold water. CRL 40,473 is thus obtained by recrystallisation from a 4:1 (volume/volume) mixture of methanol and water. Melting point 182°-185° C. (with decomposition). Yield: 72%.

reactant | sodium | 5.75 g | [Na] | Na
reactant | hydroxylamine hydrochloride | 0.15 mol, 10.5 g | Cl.NO
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethyl 4-aminobenzamidoacetate | 0.1 mol, 22.2 g | NC1=CC=C(C(=O)NCC(=O)OCC)C=C1 | C11H14N2O3
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 4-Amino-benzamido-acetohydroxamic acid hydrochloride | Yield: 72% | Cl.NC1=CC=C(C(=O)NCC(=O)NO)C=C1 | InChI=1S/C9H11N3O3.ClH/c10-7-3-1-6(2-4-7)9(14)11-5-8(13)12-15;/h1-4,15H,5,10H2,(H,11,14)(H,12,13);1H
